US05679700
Step F: Benzyl 2-(((4-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-2-butenyl)hydroxyphosphinyl)methyl)-4-phenylbutanoate
Dichloromethane (30 mL) was added to (+)-benzyl 2-((hydroxyphosphinyl)methyl)-4-phenylbutanoate (8.10 g, 24.4 mmol) and 4Å molecular sieves (5.0 g). Diisopropylethylamine (4.70 mL, 3.49 g, 27.0 mmol) was added over 5 min. After cooling the reaction mixture in an ice bath, O,N-bis(trimethylsilyl)acetamide (17.7 mL, 14.6 g, 71.6 mmol) was added in one portion, followed in 10 min by N-(4-bromo-2-butenyl)phthalimide (8.80 g, 31.4 mmol). The mixture was allowed to slowly warm to room temperature and stirred for 20 h before being filtered. The sieve particles were rinsed with ethyl acetate (100 mL) and the filtrate was washed with 2N aqueous hydrochloric acid (2×50 mL) and saturated aqueous sodium chloride (25 mL). The aqueous layers were extracted in succession with ethyl acetate (50 mL). The organic layers were dried (sodium sulfate), decanted, and evaporated to give 15.66 g of almost colorless syrup containing benzyl 2-(((4-(1,3-dihydro-1,3-dioxo-2M-isoindol-2-yl)-2-butenyl)hydroxyphosphinyl)methyl)-4-phenylbutanoate.

reactant | (+)-benzyl 2-((hydroxyphosphinyl)methyl)-4-phenylbutanoate | 24.4 mmol, 8.10 g | OP(=O)CC(C(=O)OCC1=CC=CC=C1)CCC1=CC=CC=C1 | C18H21O4P
reactant | Diisopropylethylamine | 27.0 mmol, 4.70 mL, 3.49 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(4-bromo-2-butenyl)phthalimide | 31.4 mmol, 8.80 g | BrCC=CCN1C(C=2C(C1=O)=CC=CC2)=O | C12H10BrNO2
solvent | Dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Benzyl 2-(((4-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-2-butenyl)hydroxyphosphinyl)methyl)-4-phenylbutanoate | O=C1N(C(C2=CC=CC=C12)=O)CC=CCP(=O)(O)CC(C(=O)OCC1=CC=CC=C1)CCC1=CC=CC=C1 | C30H30NO6P
